### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): add lemma `IsTree.dist_ne_of_adj` and necessary lemmas

### PR DESCRIPTION
**Pull request by IvanRenison**
This contribution was created as part of the Utrecht Summerschool "Formalizing Mathematics in Lean" in July 2025.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 1]
```diff
@@ -123,6 +124,42 @@ theorem isAcyclic_of_path_unique (h : ∀ (v w : V) (p q : G.Path v w), p = q) :
...
+    {p : G.Walk u v} {q : G.Walk u w} (hp : p.IsPath) (hq : q.IsPath) (hadj : G.Adj v w)
+    (hv : v ∉ q.support) : w ∈ p.support := by
+  let r := q.concat hadj.symm
+  have hr : r.IsPath := hq.concat hv hadj.symm
+  have h := isAcyclic_iff_path_unique.mp hG ⟨p, hp⟩ ⟨r, hr⟩
+  simp only [Subtype.mk.injEq] at h
+  rw [h]
+  unfold r
+  apply q.support_subset_support_concat
+  exact q.end_mem_support
```
Comment (themathqueen) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
  rw [Subtype.mk.inj <| isAcyclic_iff_path_unique.mp hG ⟨p, hp⟩ ⟨_, hq.concat hv hadj.symm⟩]
  exact q.support_subset_support_concat _ q.end_mem_support
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 2]
```diff
@@ -123,6 +124,42 @@ theorem isAcyclic_of_path_unique (h : ∀ (v w : V) (p q : G.Path v w), p = q) :
...
+  have hp₀p₁ : (p₀.append p₁).IsPath := by
+    rw [← happend]
+    exact hp
+  have hvw : v ≠ w := hadj.symm.ne'
+  have hvp₁ : v ∈ p₁.support := p₁.end_mem_support
+  have hp₀q := hG.path_unique ⟨p₀, hp₀⟩ ⟨q, hq⟩
+  simp only [Subtype.mk.injEq] at hp₀q
+  rw [← hp₀q]
+  intro hxp
+  exact hp₀p₁.ne_of_mem_support_of_append hvw hxp hvp₁ rfl
```
Comment (themathqueen) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
  rw [← Subtype.mk.inj <| hG.path_unique ⟨p₀, hp₀⟩ ⟨q, hq⟩]
  exact fun hxp => (happend ▸ hp).ne_of_mem_support_of_append hadj.symm.ne' hxp
    (p₁.end_mem_support) rfl
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 3]
```diff
@@ -123,6 +124,42 @@ theorem isAcyclic_of_path_unique (h : ∀ (v w : V) (p q : G.Path v w), p = q) :
...
+
+lemma IsAcyclic.path_concat (hG : G.IsAcyclic) {u v w : V} {p : G.Walk u v} {q : G.Walk u w}
+    (hp : p.IsPath) (hq : q.IsPath) (hadj : G.Adj v w) (hv : v ∈ q.support) :
+    q = p.concat hadj := by
+  have hw : w ∉ p.support := hG.ne_mem_support_of_support_of_adj_of_isPath hq hp hadj.symm hv
+  have hpw : (p.concat hadj).IsPath := hp.concat hw hadj
+  have h := isAcyclic_iff_path_unique.mp hG ⟨q, hq⟩ ⟨p.concat hadj, hpw⟩
+  simp only [Subtype.mk.injEq] at h
+  exact h
```
Comment (themathqueen) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
  exact Subtype.mk.inj <| isAcyclic_iff_path_unique.mp hG ⟨q, hq⟩ ⟨_, hp.concat hw hadj⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 4]
```diff
@@ -254,4 +291,23 @@ lemma IsTree.exists_vert_degree_one_of_nontrivial [Fintype V] [Nontrivial V] [De
...
 
+lemma IsTree.dist_ne_of_adj (hG : G.IsTree) (u : V) {v w : V} (hadj : SimpleGraph.Adj G v w) :
+    G.dist u v ≠ G.dist u w := by
+  obtain ⟨p, hp, hp'⟩ := hG.isConnected.exists_path_of_dist u v
+  obtain ⟨q, hq, hq'⟩ := hG.isConnected.exists_path_of_dist u w
+  rw [← hp', ← hq']
+  by_cases hw : w ∈ p.support
+  · have hp : p = q.concat hadj.symm := hG.IsAcyclic.path_concat hq hp hadj.symm hw
+    rw [hp]
+    rw [q.length_concat]
```
Comment (themathqueen) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
  · rw [hG.IsAcyclic.path_concat hq hp hadj.symm hw, q.length_concat]
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 5]
```diff
@@ -254,4 +291,23 @@ lemma IsTree.exists_vert_degree_one_of_nontrivial [Fintype V] [Nontrivial V] [De
...
+    exact q.length.ne_add_one.symm
+  · have hv : v ∈ q.support := hG.IsAcyclic.mem_support_of_ne_mem_support_of_adj_of_isPath hq hp
+      hadj.symm hw
+    have h : (p.concat hadj).IsPath := by
+      rw [← hG.IsAcyclic.path_concat hp hq hadj hv]
+      exact hq
+    have hq : q = p.concat hadj := hG.IsAcyclic.path_concat hp hq hadj hv
+    rw [hq, p.length_concat]
```
Comment (themathqueen) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
    rw [hG.IsAcyclic.path_concat hp hq hadj hv, p.length_concat]
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 6]
```diff
@@ -254,4 +275,17 @@ lemma IsTree.exists_vert_degree_one_of_nontrivial [Fintype V] [Nontrivial V] [De
   rw [← hv]
   exact h.minDegree_eq_one_of_nontrivial
 
+lemma IsTree.dist_ne_of_adj (hG : G.IsTree) (u : V) {v w : V} (hadj : SimpleGraph.Adj G v w) :
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
lemma IsTree.dist_ne_of_adj (hG : G.IsTree) (u : V) {v w : V} (hadj : G.Adj v w) :
```

**Review by pimotte — APPROVED** [review]
Looks good to me! @b-mehta do you think we could merge this?

**Review by b-mehta — COMMENTED** [review]
Nice, thank you!

bors merge
